US04704407
Seventeen grams of dobutamine hydrochloride were suspended in 500 ml of deaerated water [deaerated by alternatively applying a vacuum (10-100 Torr.) followed by a period of sparging with N2 ]. 150 mg of sodium sulfite were added as a peroxide scavenger. The suspension was stirred under a constant positive N2 pressure. 50 ml of 1N aqueous sodium hydroxide diluted to 120 ml with deaerated water were added in dropwise fashion over a 2.5 hr. period. After the addition was complete, the neutralization mixture was stirred for an additional 2 hours, during which time a white crystalline solid comprising dobutamine free base separated. The supernate was decanted, and the crystalline residue washed thoroughly with 600 ml of deaerated water. The supernate was again decanted. The solid precipitate was then filtered under N2. The filter cake was washed twice with 100 ml portions of water and was then dried at 45° C. under vacuum for 3 hours. 14.5 g of dobutamine free base were thus obtained.

reactant | dobutamine hydrochloride | Seventeen grams | CC(CCC=1C=CC(=CC1)O)NCCC=2C=CC(=C(C2)O)O.Cl
solvent | water | 500 ml | O | H2O
product | dobutamine | 14.5 g | CC(CCC=1C=CC(=CC1)O)NCCC=2C=CC(=C(C2)O)O | C18H23NO3
